US04668686
A mixture of 5-[[2-amino-4-(trifluoromethyl)phenyl]methylene]-2-thioxo-4-imidazolidinone (3.63 g, 12 mmol), pyridinium tosylate (1.8 g), and diphenyl ether (5.4 g) was heated at 180° C. under an atmosphere of argon. After 18 minutes, the mixture was cooled, chloroform (60 mL) added and the mixture refluxed. After 30 minutes the solid was filtered off and dissolved in a mixture of water (80 mL) and 10% sodium hydroxide solution (5 mL) with warming. Addition of acetic acid afforded a heavy precipitate which was filtered off, washed with water and dried in vacuo to give 1,3-dihydro-6-(trifluoromethyl)-2H-imidazo[4,5-b]quinolin-2-thione (1.79 g, 52%), m.p. >320° C.

reactant | 5-[[2-amino-4-(trifluoromethyl)phenyl]methylene]-2-thioxo-4-imidazolidinone | 12 mmol, 3.63 g | NC1=C(C=CC(=C1)C(F)(F)F)C=C1C(NC(N1)=S)=O | C11H8F3N3OS
reactant | pyridinium tosylate | 1.8 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1.[NH+]1=CC=CC=C1
reactant | diphenyl ether | 5.4 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | 1,3-dihydro-6-(trifluoromethyl)-2H-imidazo[4,5-b]quinolin-2-thione | 1.79 g, 52% | FC(C=1C=CC=2C=C3C(=NC2C1)NC(N3)=S)(F)F | C11H6F3N3S
